US04057578
5.6 g (0.1 mole)butene-1, 71 g (0.3 mole) trichloromethane phosphonic dichloride and 0.5 g tert. butyl perbenzoate were heated in 100 ml methylene chloride in a closed ampoule and in the absence of air, during 10 hours at 120°. After cooling, the ampoule was opened and its contents distilled. Unconverted trichloromethane phosphonic dichloride sublimed between 70° and 125° at 25 mm pressure. The continued distillation yielded 10.3 g 1.1,3-trichloropentane-1-phosphonic dichloride, bp/0.05: 64° -66°. Found Cl: 61.3% Calc. for C5H8Cl5OP: 61.0%.

reactant | butene-1 | 0.1 mole, 5.6 g | CCC=C | C4H8
reactant | trichloromethane phosphonic dichloride | 0.3 mole, 71 g | ClC(P(=O)(Cl)Cl)(Cl)Cl | CCl5OP
reactant | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | tert. butyl perbenzoate | 0.5 g | C1=CC=CC=C1C(=O)OOC(C)(C)C | C11H14O3
product | 1.1,3-trichloropentane-1-phosphonic dichloride | 10.3 g | ClC(CC(CC)Cl)(P(=O)(Cl)Cl)Cl | C5H8Cl5OP
